US07632857B2
Procedure G′: 4-(6-Trifluoromethyl-pyridin-3-yl)-benzoic acid methyl ester (0.57 g, 2 mmol) is dissolved in tetrahydrofuran/water (9:1)(25 ml), lithium hydroxide monohydrate (0.9 g, 2.2 mmol) is added and the mixture is heated under reflux overnight. The mixture is concentrated under reduced pressure and partitioned between water and ethyl acetate. The aqueous layer is acidified and the resulting precipitate is collected by filtration to give the 4-(6-trifluoromethyl-pyridin-3-yl)-benzoic acid. MS (FIA)267 (MH−)

reactant | 4-(6-Trifluoromethyl-pyridin-3-yl)-benzoic acid methyl ester | 2 mmol, 0.57 g | COC(C1=CC=C(C=C1)C=1C=NC(=CC1)C(F)(F)F)=O | C14H10F3NO2
reactant | lithium hydroxide monohydrate | 2.2 mmol, 0.9 g | O.[OH-].[Li+]
solvent | tetrahydrofuran water | 25 ml | O1CCCC1.O
product | 4-(6-trifluoromethyl-pyridin-3-yl)-benzoic acid | FC(C1=CC=C(C=N1)C1=CC=C(C(=O)O)C=C1)(F)F | C13H8F3NO2
